US05849796
50 g of 2,4-dichloro-5-methylsulphonylbenzoic acid [obtainable in accordance with Ex. 2] are heated in an autoclave, at 180° and under a pressure of 30 bar for 12 h, together with 500 ml of a 32% aqueous solution of ammonia. The reaction mixture is then poured onto ice, acidified with conc. HCl and extracted by boiling with methanol. 2-Amino-4-chloro-5-methylsulphonylbenzoic acid is obtained, m.p. 284°-286°.

reactant | 2,4-dichloro-5-methylsulphonylbenzoic acid | 50 g | ClC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C8H6Cl2O4S
reactant | ammonia | N | H3N
reactant | HCl | Cl | ClH
product | 2-Amino-4-chloro-5-methylsulphonylbenzoic acid | NC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C8H8ClNO4S
